US07795250B2
Step 7: Ethyl (2E)-3 (4-{[(1-aminocyclopentyl)carbonyl]amino}phenyl)acrylate
1-{[(benzyloxy)carbonyl]amino}cyclopentanecarboxylic acid was dissolved in DMF (0.2 M). HATU (1 eq.) and triethylamine (3 eq.) were added, followed by ethyl cinnamate (0.95 eq.). The resulting mixture was stirred for 48 h at 40° C. DMF was evaporated, the resulting oil taken up in EtOAc and the solution washed with HCl (3×, 1 M), water, a solution of saturated aqueous NaHCO3 (2×) and brine. Drying over Na2SO4 and evaporation gave an orange solid, which was purified by flash chromatography on silica gel using PE/EtOAc (2.5:1, containing 1% EtOH) as the eluent. The resulting solid was immediately dissolved in DCM (0.1M) and triflic acid (5 eq.) was added dropwise at RT. After 5 min at RT, the red mixture was poured into an aqueous solution of NaHCO3. The organic phase was separated, the aqueous phase was extracted with DCM (4×) and the combined organic phases dried over Na2SO4. Evaporation gave the title compound as an off-white solid, which was used without further purification. 1H NMR (400 MHz, DMSO-d6, 300 K) δ 1.26 (t, J 7.1, 3H), 1.48-1.61 (m, 2H), 1.63-1.87 (m, 4H), 1.96-2.10 (m, 2H), 4.18 (q, J 7.1, 2H), 6.53 (d, J 16.0, 1H), 6.60-7.30 (bs, 3H), 7.59 (d, J 16.0, 1H), 7.67 (d, J 8.5, 2H), 7.76 (d, J 8.5, 2H); MS (ES+) m/z 303 (M+H)+.

reactant | 1-{[(benzyloxy)carbonyl]amino}cyclopentanecarboxylic acid | C(C1=CC=CC=C1)OC(=O)NC1(CCCC1)C(=O)O | C14H17NO4
reactant | HATU | 1 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 3 eq. | C(C)N(CC)CC | C6H15N
reactant | ethyl cinnamate | 0.95 eq. | C(C=CC1=CC=CC=C1)(=O)OCC | C11H12O2
reactant | triflic acid | 5 eq. | OS(=O)(=O)C(F)(F)F | CHF3O3S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 0.2 M | CN(C)C=O | C3H7NO
product | Ethyl (2E)-3 (4-{[(1-aminocyclopentyl)carbonyl]amino}phenyl)acrylate | NC1(CCCC1)C(=O)NC1=CC=C(C=C1)/C=C/C(=O)OCC | C17H22N2O3
